US08252831B2
2-Chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoic acid
Add methyl 2-chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoate (1.05 kg, 3.7 mol), 1,4-dioxane (5.25 L) and water (3.15 L) together and then add lithium hydroxide (407.8 g, 9.6 mol). Stir the resulting suspension at room temperature for one hour. Acidify the mixture to pH 1 with 5 N aqueous HCl in a dropwise fashion at a rate such that the internal temperature does not exceed 30° C. Concentrate the solution to remove approximately 6 L of solvent, and cool the resulting suspension to 10° C. Filter, wash the resulting solid material with water (8 L), and allow to dry on the sinter for 3 h. Collect the solid, and dry the material in a vacuum oven at 40° C. for 48 h to give the title compound as a free-flowing white solid (775 g, 77.7%). MS (m/z) (35Cl/37Cl) 270/272 (M+1).

reactant | methyl 2-chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoate | 3.7 mol, 1.05 kg | ClC1=C(C(=O)OC)C=C(C=C1)CNC(C(C)(C)C)=O | C14H18ClNO3
reactant | 1,4-dioxane | 5.25 L | O1CCOCC1 | C4H8O2
reactant | lithium hydroxide | 9.6 mol, 407.8 g | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | water | 3.15 L | O | H2O
product | 2-Chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoic acid | 775 g, 77.7% | ClC1=C(C(=O)O)C=C(C=C1)CNC(C(C)(C)C)=O | C13H16ClNO3
